US06310099B1
A mixture of 7.3 g (0.035 mol) of 2-fluoro-4-pivaloyloxyaniline and 5.1 g (0.038 mol) of N-chlorosuccinimide in 50 ml of fluorobenzene is heated to reflux under a nitrogen atmosphere for two hours. After cooling to room temperature, the solvent is removed, water is added, and the mixture is extracted with ethyl acetate. The organic layer is washed with 1 N sodium hydroxide, and saturated brine, and dried over magnesium sulfate. Filtration and removal of the solvents gives a residue which is purified by silica gel chromatography (20% ethyl acetate/hexane) to give 2-chloro-4-pivaloyloxy-6-fluoroaniline.

reactant | 2-fluoro-4-pivaloyloxyaniline | 0.035 mol, 7.3 g | FC1=C(N)C=CC(=C1)OC(C(C)(C)C)=O | C11H14FNO2
reactant | N-chlorosuccinimide | 0.038 mol, 5.1 g | ClN1C(CCC1=O)=O | C4H4ClNO2
solvent | fluorobenzene | 50 ml | FC1=CC=CC=C1 | C6H5F
product | 2-chloro-4-pivaloyloxy-6-fluoroaniline | ClC1=C(N)C(=CC(=C1)OC(C(C)(C)C)=O)F | C11H13ClFNO2
